Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
aspirin / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Hematuria
 
Major Surgical or Invasive Procedure:
cystoscopy

 
History of Present Illness:
___ y/o G11P4 at 32+0 weeks presenting with hematuria and ?
urinary retention.  She has been having hematuria for last 3
days.  Presented to triage yesterday (___), had reassuring eval
and urine cleared, was sent home with Macrobid and for follow up
with Urology for cystoscopy. Today, she states she is having
bloody urine again, as well as some suprapubic pain.  No
contractions, VB, or LOF.  Active fetal movement.
Prenatal history reviewed in chart.

 
Past Medical History:
PNC:
-___: ___
-Labs: B+/AbPOS/HBsAg-/RPRNR/RI/HIV-/GBS unk
-Screening: LR NIPT
-FFS: WNL, posterior placenta
-GLT: 138
-Issues:
*AMA
*Positive antibodies ___ anti little s, ___ anti JKa

OBHx:
-TAB x4
-SAB x1
-SVD 24w PPROM, chorio, s/p lapartomy for 10cm dermoid cyst
-SVD term x3
-current

GynHx: h/o LGSIL, HPV neg, s/p colpo.  No fibroids or STI

PMH: G6PD, SC Trait (FOB neg)
PSH: laparotomy for dermoid

 
Social History:
SHx: denies ___

 
___ Exam:
 Physical Exam on Discharge:  
 CONSTITUTIONAL: normal  
 HEENT: normal, MMM  
 NEURO: alert, appropriate, oriented x 4  
 RESP: no increased WOB  
 HEART: extremities warm and well perfused  
 ABDOMEN: gravid, non-tender  
 EXTREMITIES: non-tender, no edema  
 FHR: present at a normal rate  

 
Pertinent Results:
___ 07:10AM BLOOD WBC-7.0 RBC-2.94* Hgb-9.2* Hct-26.8* 
MCV-91 MCH-31.3 MCHC-34.3 RDW-13.0 RDWSD-42.0 Plt ___
___ 06:25AM BLOOD WBC-7.1 RBC-2.95* Hgb-9.1* Hct-26.9* 
MCV-91 MCH-30.8 MCHC-33.8 RDW-13.0 RDWSD-42.4 Plt ___
___ 06:11AM BLOOD WBC-8.3 RBC-2.97* Hgb-9.2* Hct-26.4* 
MCV-89 MCH-31.0 MCHC-34.8 RDW-12.9 RDWSD-41.4 Plt ___
___ 06:36AM BLOOD WBC-6.9 RBC-2.84* Hgb-8.8* Hct-25.3* 
MCV-89 MCH-31.0 MCHC-34.8 RDW-12.6 RDWSD-40.8 Plt ___
___ 09:28AM BLOOD WBC-6.6 RBC-3.02* Hgb-9.6* Hct-27.2* 
MCV-90 MCH-31.8 MCHC-35.3 RDW-12.8 RDWSD-41.3 Plt ___
___ 11:35AM BLOOD WBC-8.7 RBC-3.20* Hgb-10.2* Hct-28.7* 
MCV-90 MCH-31.9 MCHC-35.5 RDW-12.7 RDWSD-41.6 Plt ___
___ 01:13AM BLOOD WBC-9.3 RBC-3.21* Hgb-10.1* Hct-28.4* 
MCV-89 MCH-31.5 MCHC-35.6 RDW-12.6 RDWSD-40.4 Plt ___
___ 09:28AM BLOOD Neuts-72.4* ___ Monos-6.4 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-4.79 AbsLymp-1.32 
AbsMono-0.42 AbsEos-0.03* AbsBaso-0.01
___ 11:35AM BLOOD ___ PTT-27.7 ___
___ 11:35AM BLOOD ___
___ 06:25AM BLOOD Creat-0.5
___ 09:28AM BLOOD Glucose-83 UreaN-6 Creat-0.5 Na-140 K-3.8 
Cl-104 HCO3-26 AnGap-10
___ 01:13AM BLOOD Glucose-107* UreaN-6 Creat-0.5 Na-136 
K-3.7 Cl-101 HCO3-23 AnGap-12
___ 09:15AM BLOOD ALT-7 AST-13 LD(LDH)-147 AlkPhos-51 
TotBili-0.5 DirBili-<0.2 IndBili-0.5
___ 09:28AM BLOOD Calcium-8.4 Phos-3.7 Mg-1.6
___ 01:13AM BLOOD Calcium-8.6 Phos-4.0 Mg-1.8
___ 09:15AM BLOOD Hapto-73
___ 01:13AM URINE Color-Red* Appear-Cloudy* Sp 
___
___ 01:13AM URINE Blood-LG* Nitrite-POS* Protein->300* 
Glucose-100* Ketone-40* Bilirub-LG* Urobiln->8* pH-8.5* 
Leuks-LG*
___ 01:13AM URINE RBC->182* WBC-0 Bacteri-MANY* Yeast-NONE 
Epi-0

___ 1:13 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the antepartum service at 
32w0d gestation with hematuria and urinary retention. Her UA was 
concerning for a UTI and she was started on IV ceftriaxone. 

Medicine was consulted who recommended LFTs/bili/LDH/haptoglobin 
which returned normal to screen for hemolysis given recent 
exposure to macrobid in the setting of known G6PD deficiency. 
She underwent a renal ultrasound which did show 2 nonobstructive 
calculi bilaterally with no evidence of hydronephrosis and 
normal ureteral jets bilaterally.

An obstetric ultrasound was performed which did not show 
evidence of a placenta accrete. 

Urology was consulted. A bladder ultrasound was performed which 
was notable for a 6x2x4cm clot within the bladder. A CT urogram 
was performed which showed no abnormalities within the kidneys, 
ureters, or bladder; there was a small circular hypodensity at 
the left UVJ felt to be a phlebolith or calcified vessel. A 
cystoscopy was performed which showed a normal bladder with 
small clots, a normal left retrograde pyelogram, and no filling 
defects or obvious causes for hematuria.

___ was also consulted. Given hemodynamic stability and 
reassuring fetal testing, delivery was not recommended. 
Betamethasone for fetal lung maturity was recommended in case a 
preterm delivery is indicated however pt declined. 

Nephrology was consulted with low suspicion for glomerular 
hematuria, and recommended an MRI to evaluate for AV 
malformation, small renal/ureteral mass, or unilateral renal 
vein thrombosis. This was deferred given resolution of her 
hematuria on ___. 

A multi-disciplinary meeting was held on ___ with ___, 
medicine, radiology, and urology. Alternative diagnoses such as 
evaluation for an AVM by using angiography was discussed. 
However, given resolution of hematuria, additional imaging or 
intervention was deferred. 

The patient's HCT and Cr remained stable throughout her hospital 
course. She had reassuring daily fetal testing. On ___, she 
continued to have resolution of her hematuria and she was 
discharged with close outpatient follow up. 
 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO DAILY anemia 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*2 
2.  Prenatal Vitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hematuria (blood in urine)

 
Discharge Condition:
Ambulatory, coherent, stable

 
Discharge Instructions:
Dear. Ms. ___,
.
You were admitted to the hospital with blood in your urine 
(hematuria). After about 6 days, your bleeding resolved. You 
were seen by the Maternal Fetal Medicine, Nephrology, Urology, 
and Medicine teams and you have been deemed stable for discharge 
home. 
.
Please call your doctor if you have any further blood in your 
urine.  
.
Please follow the instructions below:  
 - Attend all appointments with your obstetrician and all fetal 
scans  
 - Monitor for the following danger signs:  
 - headache that is not responsive to medication  
 - abdominal pain  
 - increased swelling in your legs  
 - vision changes  
 - Worsening, painful or regular contractions  
 - Vaginal bleeding  
 - Leakage of water or concern that your water broke  
 - Nausea/vomiting  
 - Fever, chills  
 - Decreased fetal movement  
 - Other concerns  

 
Followup Instructions:
___